US05847169
2,6-dimethylphenoxyacetylchloride is prepared in a separate vessel as follows: 2,6-dimethylphenoxyacetic acid, 5.4060 grams (29.99 mmol) is charged to a 50 mL round bottom flask equipped with a teflon-coated magnetic stir bar. Toluene, 15 mL is added stirring is initiated and thionyl chloride, 9.0 mL (123.3 mmol) is added followed by one drop of N,N-dimethylformamide at ambient temperature. After seven hours, the reaction mixture is heated to 65° C. for thirty minutes and allowed to cool to ambient temperature. The solution is concentrated at 60° C. and ca. 60 mm Hg pressure to remove all volatiles. The residue is diluted with toluene, 25 mL and reconcentrated. This is repeated a second time to give a final residue.

reactant | 2,6-dimethylphenoxyacetic acid | CC1=C(OCC(=O)O)C(=CC=C1)C | C10H12O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-dimethylphenoxyacetylchloride | CC1=C(OCC(=O)Cl)C(=CC=C1)C | C10H11ClO2
